US08835428B2
(S)-4-Methyl-2-({4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid methyl ester
The title compound was prepared from 4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid and (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride using the procedure as set forth in Example 5 and was obtained in 83% yield. Mass (ES−): 525 (M−−1); 1H NMR (DMSO-d6) δ: 0.75, 0.81 (2×d, 6H), 1.35-1.58 (m, 3H), 3.66 (s, 3H), 4.49 (m, 1H), 6.96 (t, 1H), 7.27 (t, 2H), 7.44 (d, 2H), 7.54 (m, 3H), 7.56 (d, 2H), 7.66 (d, 2H), 7.82 (m, 2H), 8.72 (br, 1H), 8.95 (br, 1H), 9.31 (d, 1H).

reactant | 4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | C1(=CC=CC=C1)C=1C(=NOC1C(=O)O)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C23H17N3O4
reactant | (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride | Cl.COC([C@H](CC(C)C)N)=O
product | (S)-4-Methyl-2-({4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid methyl ester | 83% yield | COC([C@H](CC(C)C)NC(=O)C1=C(C(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C1=CC=CC=C1)=O | C30H30N4O5
